US07985754B2
4-[3-(6-Amino-9H-purin-2-yl)-prop-2-ynyl]-piperidine-1-carboxylic acid 2-chloro-phenyl Ester
A solution of 2-{3-[1-((2-chloro)phenoxycarbanoyl)piperidin-4-yl]propyn-1-yl}adenosine (0.720 g, 1.326 mmol) in methanol (25 mL) and 1.0 M HCl (2.50 mL) was stirred at 90° C. in a pressure apparatus for 22 h. The pH was adjusted to 5 with 1.0 M NaOH and the methanol removed under reduced pressure. After cooling the resulting precipitate was filtered and washed with water to afford the pure product as a white solid: yield 1.481 g, 88%.

reactant | 2-{3-[1-((2-chloro)phenoxycarbanoyl)piperidin-4-yl]propyn-1-yl}adenosine | 1.326 mmol, 0.720 g | ClC1=C(OC(=O)N2CCC(CC2)CC#CC=2N=C(C=3N=CN([C@H]4[C@H](O)[C@H](O)[C@@H](CO)O4)C3N2)N)C=CC=C1 | C25H27ClN6O6
reactant | NaOH | 1.0 M | [OH-].[Na+]
solvent | methanol | 25 mL | CO | CH4O
solvent | HCl | 1.0 M, 2.50 mL | Cl | ClH
product | 4-[3-(6-Amino-9H-purin-2-yl)-prop-2-ynyl]-piperidine-1-carboxylic acid 2-chloro-phenyl Ester | ClC1=C(C=CC=C1)OC(=O)N1CCC(CC1)CC#CC1=NC(=C2N=CNC2=N1)N | C20H19ClN6O2
